US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(2-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(2-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (150 mg, 0.183 mmol), trifluoroacetic acid (1 mL, 12.98 mmol) in dichloromethane (4 mL) stirred at rt. The reaction mixture was stirred at rt for 2 h. The reaction mixture was evaporated and then purified by preparative-HPLC (Mobile Phase A: Water (0.05% TFA), B: ACN; Gradient 89-89% B in 0-7.5 min, stop at 12 min; Flow Rate (ml/min) 30.00; Retention Time (min) 7.0) to give the title compound (70 mg, 0.092 mmol, 50.1%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ=7.43-7.32 (m, 2H), 7.32-7.18 (m, 2H), 6.81 (d, J=15.8 Hz, 1H), 6.01 (d, J=15.8 Hz, 1H), 5.41 (q, J=6.9 Hz, 1H), 4.48 (dd, J=5.1, 11.2 Hz, 1H), 3.30-3.24 (m, 1H), 2.94-2.81 (m, 1H), 2.72-2.49 (m, 2H), 2.30-0.75 (m, 50H); LC/MS: m/z calculated 761.4. Found 762.3 (M+1)+.

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(2-chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.183 mmol, 150 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)N[C@@H](C)C5=C(C=CC=C5)Cl)C)C)(C)C)C | C50H72ClNO6
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-(((S)-1-(2-Chlorophenyl)ethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 0.092 mmol, 70 mg, 50.1% | ClC1=C(C=CC=C1)[C@H](C)NC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C46H64ClNO6
